US04005217
A solution of 4-n-butyl-2-nitroaniline (29.1 g) in toluene (100 ml) was treated with bromoacetyl bromide (33.3 g). The mixture was boiled under reflux for 3/4 hour and the toluene evaporated off. The residual oil was poured into petroleum spirit (b.p. 60°-80° C; 400 ml). Crystals were deposited and these were removed by filtration to give N-(4-n-butyl-2-nitrophenyl)-2-bromoacetamide (41 g), m.p. 56°-57° C.

reactant | 4-n-butyl-2-nitroaniline | 29.1 g | C(CCC)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O2
reactant | bromoacetyl bromide | 33.3 g | BrCC(=O)Br | C2H2Br2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-n-butyl-2-nitrophenyl)-2-bromoacetamide | 41 g | C(CCC)C1=CC(=C(C=C1)NC(CBr)=O)[N+](=O)[O-] | C12H15BrN2O3
